US09402838B2
Synthesis of 1-(2,2-dimethoxyethoxy)-4-fluorobenzene
Dissolve 4-fluorophenol (5.5 g, 49.1 mmol) in acetonitrile (49 mL) and treat the solution with 2-bromo-1,1-dimethoxyethane (11.6 mL, 98.1 mmol) and K2CO3 (16.95 g, 122.7 mmol). Heat the solution to reflux with stirring for five days. Filter the mixture, and concentrate the filtrate under reduced pressure. Subject the resulting crude material to silica gel chromatography eluting with a gradient of 0% to 50% EtOAc/hexanes. Concentrate the fractions containing the desired product under reduced pressure to furnish the title compound as a colorless oil (5.85 g, 60% yield). Mass spectrum (m/z) 218 (M+NH4)+, 223 (M+Na)+.

reactant | 4-fluorophenol | 49.1 mmol, 5.5 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-bromo-1,1-dimethoxyethane | 98.1 mmol, 11.6 mL | BrCC(OC)OC | C4H9BrO2
reactant | K2CO3 | 122.7 mmol, 16.95 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 49 mL | C(C)#N | C2H3N
product | 1-(2,2-dimethoxyethoxy)-4-fluorobenzene | 5.85 g, 60% yield | COC(COC1=CC=C(C=C1)F)OC | C10H13FO3
